US09353083B2
1 g (3.79 mmol) of tert-butyl 3-hydroxy-3-o-tolylazetidine-1-carboxylate dissolved in 5 ml of N,N-dimethylformamide is added dropwise to a suspension of 455 mg (11.4 mmol) of 60% sodium hydride in oil, precooled to 20° C. After stirring for 15 minutes, 2.77 g (11.4 mmol) of 4-benzyloxybutyl bromide are added and stirring is continued for 15 hours at room temperature. The reaction medium is hydrolysed with water and then extracted with ethyl acetate. The organic phase is washed three times with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude residue obtained is purified by chromatography on silica gel eluted with a heptane/ethyl acetate mixture, the polarity being increased from 100/0 to 90/00. 1.43 g of tert-butyl 3-(4-benzyloxybutoxy)-3-o-tolylazetidine-1-carboxylate are obtained in the form of a colourless oil in a yield of 80%.

reactant | tert-butyl 3-hydroxy-3-o-tolylazetidine-1-carboxylate | 3.79 mmol, 1 g | OC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C15H21NO3
reactant | sodium hydride | 11.4 mmol, 455 mg | [H-].[Na+]
reactant | 4-benzyloxybutyl bromide | 11.4 mmol, 2.77 g | C(C1=CC=CC=C1)OCCCCBr | C11H15BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-butyl 3-(4-benzyloxybutoxy)-3-o-tolylazetidine-1-carboxylate | 1.43 g, yield of 80% | C(C1=CC=CC=C1)OCCCCOC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C26H35NO4
